### PR TITLE
feat(Geometry/Euclidean): add Euler's quadrilateral theorem

### PR DESCRIPTION
**Pull request by theebayuser**
Adds Euler's quadrilateral theorem to Mathlib/Geometry/Euclidean/, and records it in docs/1000.yaml (Q18630480). It states: for any four points, the sum of the squares of the four sides of the quadrilateral a b c d equals the sum of the squares of the two diagonals, plus four times the square of the distance between the midpoints of the diagonals.

This PR was written with AI assistance (Claude Code).

### CODE REVIEW

**Comment by theebayuser** [comment]
LLM-generated

File: Mathlib/Geometry/Euclidean/EulerQuadrilateral.lean [hunk 1]
```diff
@@ -0,0 +1,79 @@
...
+
+This file proves Euler's quadrilateral theorem: for any four points `a`, `b`, `c` and `d`, the sum
+of the squares of the four sides of the quadrilateral `a b c d` equals the sum of the squares of
+the two diagonals, plus four times the square of the distance between the midpoints of the
+diagonals. The theorem is usually stated for a convex quadrilateral, but no hypothesis is needed
+here: the quadrilateral may be degenerate and its vertices need not be coplanar.
+
+The correction term is four times a squared distance, so it vanishes exactly when the two
+diagonals have the same midpoint. That is the parallelogram hypothesis of
+`EuclideanGeometry.dist_sq_add_dist_sq_eq_dist_sq_add_dist_sq_of_angle_eq_pi_div_two`. In the
```
Comment (wwylele) [inline Mathlib/Geometry/Euclidean/EulerQuadrilateral.lean]: I don't quite see the relation between the theorem here and `EuclideanGeometry.dist_sq_add_dist_sq_eq_dist_sq_add_dist_sq_of_angle_eq_pi_div_two`

File: Mathlib/Geometry/Euclidean/EulerQuadrilateral.lean [hunk 2]
```diff
@@ -0,0 +1,79 @@
...
+sides of the quadrilateral `a b c d` equals the sum of the squares of the two diagonals, plus
+four times the square of the distance between the midpoints of the diagonals. -/
+theorem dist_sq_add_dist_sq_add_dist_sq_add_dist_sq_eq_dist_sq_add_dist_sq_add_four_mul_dist_sq
+    (a b c d : P) :
+    dist a b ^ 2 + dist b c ^ 2 + dist c d ^ 2 + dist d a ^ 2
+      = dist a c ^ 2 + dist b d ^ 2 + 4 * dist (midpoint ℝ a c) (midpoint ℝ b d) ^ 2 := by
+  have key (u v w : V) : ‖u‖ ^ 2 + ‖v‖ ^ 2 + ‖w‖ ^ 2 + ‖u + (v + w)‖ ^ 2
+      = ‖u + v‖ ^ 2 + ‖v + w‖ ^ 2 + ‖u + w‖ ^ 2 := by
+    simp only [norm_add_sq_real, inner_add_right]
+    ring
```
Comment (wwylele) [inline Mathlib/Geometry/Euclidean/EulerQuadrilateral.lean]: This should be its own public lemma. As its own lemma, we likely want to state `u + v + w` instead of `u + (v + w)`

AI's `have key` style is not an established naming convention in mathlib, and often, it indicates it is either of the following
 - it is important enough to be its own lemma
 - It should be `have`-inverted. That is instead of having
```
have key : keyHypothesis  := A
<B: one line prove with key>
```
you should write 
```
suffices keyHypothesis by 
   <B: one line prove with key>
   -- sometimes you can do `rw`, `apply`, or `refine` to skip `suffices`
A
```

File: Mathlib/Geometry/Euclidean/EulerQuadrilateral.lean (hunk 1 above)
Comment (theebayuser) [reply Mathlib/Geometry/Euclidean/EulerQuadrilateral.lean]: This was originally meant to explain the spelling of the parallelogram condition, but I think I'll remove it

File: Mathlib/Geometry/Euclidean/EulerQuadrilateral.lean (hunk 2 above)
Comment (theebayuser) [reply Mathlib/Geometry/Euclidean/EulerQuadrilateral.lean]: Thanks, I was not aware of this and will keep it in mind for the future

File: Mathlib/Geometry/Euclidean/EulerQuadrilateral.lean [hunk 3]
```diff
@@ -0,0 +1,89 @@
...
+
+public section
+
+namespace InnerProductGeometry
+
+variable {V : Type*} [NormedAddCommGroup V] [InnerProductSpace ℝ V]
+
+/-- The identity underlying Euler's quadrilateral theorem, for the quadrilateral with vertices
+`0`, `u`, `u + v` and `u + v + w`, vector form. -/
+theorem norm_sq_add_norm_sq_add_norm_sq_add_norm_add_add_sq (u v w : V) :
```
Comment (wwylele) [inline Mathlib/Geometry/Euclidean/EulerQuadrilateral.lean]: I was able to generalize this to RCLike
```lean4
theorem norm_sq_add_norm_sq_add_norm_sq_add_norm_add_add_sq 
    {𝕜 V : Type*} [NormedAddCommGroup V] [RCLike 𝕜] [InnerProductSpace 𝕜 V] (u v w : V) : 
    ‖u‖ ^ 2 + ‖v‖ ^ 2 + ‖w‖ ^ 2 + ‖u + v + w‖ ^ 2
      = ‖u + v‖ ^ 2 + ‖v + w‖ ^ 2 + ‖u + w‖ ^ 2 := by
  simp only [norm_add_sq (𝕜 := 𝕜), inner_add_left, map_add]
  ring
```
With this general statement, I think it can be moved to `Mathlib.Analysis.InnerProductSpace.Basic`

Comment (theebayuser) [reply Mathlib/Geometry/Euclidean/EulerQuadrilateral.lean]: Done, thanks. I also made 𝕜 explicit

File: Mathlib/Analysis/InnerProductSpace/Basic.lean [hunk 4]
```diff
@@ -507,6 +507,17 @@ theorem parallelogram_law_with_nnnorm (x y : E) :
     ‖x + y‖₊ ^ 2 + ‖x - y‖₊ ^ 2 = 2 * (‖x‖₊ ^ 2 + ‖y‖₊ ^ 2) := by
   simp_rw [sq, parallelogram_law_with_nnnorm_mul 𝕜 x y]
 
+include 𝕜 in
+/-- The identity underlying Euler's quadrilateral theorem, for the quadrilateral with vertices
+`0`, `x`, `x + y` and `x + y + z`: the sum of the squares of the four sides equals the sum of the
+squares of the diagonals `x + y` and `y + z`, plus `‖x + z‖ ^ 2`, where `x + z` is twice the vector
+between the midpoints of the diagonals. The case `z = -y` is `parallelogram_law_with_norm`. -/
```
Comment (wwylele) [inline Mathlib/Analysis/InnerProductSpace/Basic.lean:514]: This comment unfortunately missed the beauty of the theorem statement. Notice how `x`, `y`, and `z` are completely symmetrical here. The comment should inspire reader to appreciate this and think for a possible generalization (hint: there is a version for n variables)

File: Mathlib/Analysis/InnerProductSpace/Basic.lean [hunk 5]
```diff
@@ -507,6 +507,17 @@ theorem parallelogram_law_with_nnnorm (x y : E) :
     ‖x + y‖₊ ^ 2 + ‖x - y‖₊ ^ 2 = 2 * (‖x‖₊ ^ 2 + ‖y‖₊ ^ 2) := by
   simp_rw [sq, parallelogram_law_with_nnnorm_mul 𝕜 x y]
 
+include 𝕜 in
+/-- An identity symmetric in `x`, `y` and `z`. It is the case `n = 3` of the following identity
+for `n ≥ 2` vectors `v i`: the sum of `‖v i + v j‖ ^ 2` over the pairs `i < j` is
+`(n - 2) * ∑ i, ‖v i‖ ^ 2 + ‖∑ i, v i‖ ^ 2`. The case `z = -y` gives
+`parallelogram_law_with_norm`. -/
```
Comment (wwylele) [inline Mathlib/Analysis/InnerProductSpace/Basic.lean:514]: Now this is overdoing it... 
1. I don't think doc should says something is symmetric when it is trivial from the statement. It reads condescending.
2. What does `parallelogram_law_with_norm` have to do with this? It is not mathematically wrong, but it looks like a sentence taken out of context

I hope my feedback is not just fed to AI. If that's the case, let's just remove this doc altogether.

Comment (wwylele) [reply Mathlib/Analysis/InnerProductSpace/Basic.lean]: Sorry if I sounded harsh. I genuinely think that having no doc is probably the best in this case, which is what I would do if I were PRing this
